US05064947
100 g of violuric acid was added to 1 liter of water with vigorous overhead stirring and heated to 70° C. 200 g sodium hydrosulfite was added in portions over 15 minutes. After 2.5 hours the reaction was filtered and the precipitate rinsed with water. The solid was dried under vacuum at 98° C. for 3 hours to yield 75 g of 5-amino-2,4,6-trihydroxypyrimidine.

reactant | violuric acid | 100 g | C1(=NO)C(=O)NC(=O)NC1=O | C4H3N3O4
reactant | sodium hydrosulfite | 200 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 1 liter | O | H2O
product | 5-amino-2,4,6-trihydroxypyrimidine | 75 g | NC=1C(=NC(=NC1O)O)O | C4H5N3O3
